US08809376B2
Step 5: {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
A solution of di-tert-butyl azodicarboxylate (3.30 g) in tetrahydrofuran (5 mL) is added dropwise over 45 min to a solution of (S)-(6-hydroxy-2,3-dihydro-benzofuran-3-yl)-acetic acid methyl ester (for preparation see WO 2008001931; 2.10 g), (S)-4-bromo-1-hydroxy-indan-5-carbonitrile (2.40 g) and tri-n-butyl-phosphine (3.8 mL) in tetrahydrofuran (25 mL) at −10° C. The resulting solution is stirred for 30 min and then diluted with ethyl acetate. The resulting solution is washed with water and brine and dried (MgSO4). The solvent is evaporated and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 99:1→70:30) to give the title compound. LC (method 2): tR=1.15 min; Mass spectrum (ESI+): m/z=428/430 (Br) [M+H]+.

reactant | di-tert-butyl azodicarboxylate | 3.30 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | (S)-(6-hydroxy-2,3-dihydro-benzofuran-3-yl)-acetic acid methyl ester | 2.10 g | COC(C[C@@H]1COC2=C1C=CC(=C2)O)=O | C11H12O4
reactant | (S)-4-bromo-1-hydroxy-indan-5-carbonitrile | 2.40 g | BrC1=C2CC[C@@H](C2=CC=C1C#N)O | C10H8BrNO
reactant | tri-n-butyl-phosphine | 3.8 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)Br)=O | C21H18BrNO4
